US04780477
By using 7-bromo-1-(2-diisopropylaminoethyl)-5-methylisatin and semicarbazide hydrochloride, a method analogous to that described in Example 4 was carried out to obtain (E)-7-bromo-1-(2-diisopropylaminoethyl)-5-methylisatin 3-semicarbazone having a melting point of 189°-192° C. (yield: 87.9%, recrystallizing solvent: chloroform-hexane)

reactant | 7-bromo-1-(2-diisopropylaminoethyl)-5-methylisatin | BrC=1C=C(C=C2C(C(N(C12)CCN(C(C)C)C(C)C)=O)=O)C | C17H23BrN2O2
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | (E)-7-bromo-1-(2-diisopropylaminoethyl)-5-methylisatin 3-semicarbazone | yield: 87.9% | BrC=1C=C(C=C2\C(\C(N(C12)CCN(C(C)C)C(C)C)=O)=N/NC(=O)N)C | C18H26BrN5O2
